US04311698
A suspension of 2.36 g (6.6 mmol) of 6-[4-(L-glutaminylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid in 50 ml of water is stirred at room temperature. The pH is adjusted to 9 with 1 N sodium hydroxide and 50 ml of t-butyl alcohol is added. The reaction is stirred at room temperature and treated dropwise over 1/2 hr with 1.76 ml (8.0 mmol) of di-tert-butyl dicarbonate. The reaction is stirred at room temperature for 1 hr, and the solvents are removed under reduced pressure. The residue is suspended in water and acidified with solid citric acid. The precipitate is filtered, washed with water, ethanol, ether, and dried to give 2.3 g of 6-[4-(N-t-butoxycarbonyl-L-glutaminylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid;

reactant | 6-[4-(L-glutaminylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 6.6 mmol, 2.36 g | N[C@@H](CCC(N)=O)C(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C17H18N4O5
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | t-butyl alcohol | 50 ml | C(C)(C)(C)O | C4H10O
reactant | di-tert-butyl dicarbonate | 8.0 mmol, 1.76 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 50 ml | O | H2O
product | 6-[4-(N-t-butoxycarbonyl-L-glutaminylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 2.3 g | C(C)(C)(C)OC(=O)N[C@@H](CCC(N)=O)C(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C22H26N4O7
